US08278345B2
Compound 336: 1-(1H-Benzoimidazol-5-yl)-5-(5-chloro-2-hydroxy-phenyl)-3-hydroxy-4-methylsulfanylmethyl-1,5-dihydro-pyrrol-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 5-Chloro2-Hydroxybenzaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 4-Methylsulfanyl-2-oxo-butyric acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 5-Chloro2-Hydroxybenzaldehyde | 1 mmol | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | 4-Methylsulfanyl-2-oxo-butyric acid ethyl ester | 1 mmol | C(C)OC(C(CCSC)=O)=O | C7H12O3S
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(1H-Benzoimidazol-5-yl)-5-(5-chloro-2-hydroxy-phenyl)-3-hydroxy-4-methylsulfanylmethyl-1,5-dihydro-pyrrol-2-one | N1C=NC2=C1C=CC(=C2)N2C(C(=C(C2C2=C(C=CC(=C2)Cl)O)CSC)O)=O | C19H16ClN3O3S
